US03981886
2-Amino-4-methyl-1,3-bis[(3-chlorophenoxy)methyl]-1H-benzimidazol-3-ium chloride
Following the procedure of Example 2 and replacing 2-aminobenzimidazole with 2-amino-4-methylbenzimidazole and replacing 2-bromo-4-chlorophenyl chloromethyl ether with 3-chlorophenyl chloromethyl ether, the title compound is obtained.

reactant | 2-amino-4-methylbenzimidazole | NC=1NC2=C(N1)C=CC=C2C | C8H9N3
reactant | 3-chlorophenyl chloromethyl ether | ClCOC1=CC(=CC=C1)Cl | C7H6Cl2O
product | 2-Amino-4-methyl-1,3-bis[(3-chlorophenoxy)methyl]-1H-benzimidazol-3-ium chloride | [Cl-].NC1=[N+](C2=C(N1COC1=CC(=CC=C1)Cl)C=CC=C2C)COC2=CC(=CC=C2)Cl | InChI=1S/C22H19Cl2N3O2.ClH/c1-15-5-2-10-20-21(15)27(14-29-19-9-4-7-17(24)12-19)22(25)26(20)13-28-18-8-3-6-16(23)11-18;/h2-12,25H,13-14H2,1H3;1H
